US06001997
(d) 2-Bromoacetyl-5-methyltetrahydrofuran
A solution of 5-methyl-2-tetrahydrofuroic acid (1.80 g, 13.85 mmol) in dichloromethane (25 ml) was treated with oxalyl chloride (2.4 ml, 27.51 mmol) in the presence of dimethylformamide (3 drops). After stirring for 1.25 h, the solvent was evaporated in vacuo. The residue was re-dissolved in dichloromethane and concentrated again. Excess diazomethane was then bubbled through a solution of the resulting acid chloride in dichloromethane (30 ml) at 0° C. When the addition was complete, the mixture was stirred for 10 min. at 0° C. and then treated with 48% aqueous hydrogen bromide (2.6 ml, 15.41 mmol). The mixture was stirred for 15 min. at room temperature, washed with water (x2), dried and concentrated in vacuo to yield the crude title compound as a brown oil (1.67 g, 58%); νmax (CH2Cl2) 1735, 1387 and 1086 cm-1 ; δH (CDCl3, 90 MHz) 1.33 (3 H, d, J 6.0 Hz), 1.48 (1 H, m), 1.90-2.35 (3 H, m), 4.10 (1 H, m), 4.25 (2 H, s) and 4.48 (1 H, m).

reactant | 5-methyl-2-tetrahydrofuroic acid | 13.85 mmol, 1.80 g | CC1CCC(O1)C(=O)O | C6H10O3
reactant | oxalyl chloride | 27.51 mmol, 2.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | hydrogen bromide | 15.41 mmol, 2.6 ml | Br | BrH
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
product | 2-Bromoacetyl-5-methyltetrahydrofuran | 1.67 g, 58% | BrCC(=O)C1OC(CC1)C | C7H11BrO2
